US05424329
1,1-Dimethylethyl 3-hydroxy-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate
A solution of 1,1-dimethylethyl 3-bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate (18.6 g, 45 mmol) in 200 mL of tetrahydrofuran is cooled to -78° C. in a dry ice-acetone bath and treated dropwise with a solution of 1.6M n-butyl lithium in hexane (29 mL, 46 mmol). After 15 minutes a solution of trimethyl borate (5.2 mL, 4.8 g, 46 mmol) in 25 mL of tetrahydrofuran is added dropwise. The mixture is stirred for 1 hour, and 4.0 mL of acetic acid is slowly added. The mixture is stirred for an additional 10 minutes, and a solution of 30% hydrogen peroxide in water (5.4 mL, 1.8 g, 53 mmol) is slowly added. After 30 minutes, an additional 4.5 mL (1.5 g, 44 mmol) of peroxide solution is added, and the mixture is stirred at room temperature for 20 hours. The mixture is added to 1.0 L of water and extracted with ethyl acetate. The combined organic layers are washed with brine, 5% aqueous sodium bicarbonate solution, and brine again, then dried (anhydrous sodium sulfate) and evaporated to an oil residue. Purification of the residue by flash chromatography (silica gel, 50% dichloromethane in hexane elution) gives 8.2 g (52%) of product suitable for further synthesis. A sample recrystallized from hexane has mp 101°-103° C.

reactant | 1,1-dimethylethyl 3-bromo-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate | 45 mmol, 18.6 g | BrC1=C(N(C2=CC=C(C=C12)OCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C21H22BrNO3
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | hexane | 46 mmol, 29 mL | CCCCCC | C6H14
reactant | trimethyl borate | 46 mmol, 5.2 mL, 4.8 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | 1.0 L | O | H2O
solvent | acetic acid | 4.0 mL | C(C)(=O)O | C2H4O2
solvent | water | 53 mmol, 5.4 mL, 1.8 g | O | H2O
product | 1,1-Dimethylethyl 3-hydroxy-1-methyl-5-(phenylmethoxy)-1H-indole-2-carboxylate | 8.2 g, 52% | OC1=C(N(C2=CC=C(C=C12)OCC1=CC=CC=C1)C)C(=O)OC(C)(C)C | C21H23NO4
